US07399759B2
Ethyl 2-(4-oxo-4H-1,3-benzothiazin-2-yl)isonicotinate
A mixture of methyl thiosalicylate (3.0 g, 17.8 mmol), ethyl 2-cyanoisonicotinate (3.1 g, 17.8 mmol), triethylamine (5.0 ml, 35.8 mmol) and toluene (10 ml) was refluxed for 8 hrs as described in Example 1. The precipitated crystals were collected by filtration and recrystallized from diisopropylether-chlorobenzene to give the titled compound (4.0 g, 71%).

reactant | methyl thiosalicylate | 17.8 mmol, 3.0 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | ethyl 2-cyanoisonicotinate | 17.8 mmol, 3.1 g | C(#N)C=1C=C(C(=O)OCC)C=CN1 | C9H8N2O2
reactant | triethylamine | 35.8 mmol, 5.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-(4-oxo-4H-1,3-benzothiazin-2-yl)isonicotinate | 4.0 g, 71% | O=C1N=C(SC2=C1C=CC=C2)C=2C=C(C(=O)OCC)C=CN2 | C16H12N2O3S
